Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
IPH with intraventricular extension 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ woman with a past medical history of hypertension 
and
breast cancer treated ___ years ago with lumpectomy radiation 
and
tamoxifen presented to ___ after becoming acutely
confused. A baseline the patient is completely independent able
to drive, pay bills, and ambulate. The patient lives alone in a
ground floor apartment but speaks with her daughter at least
every other day if not daily as well as with her sister daily.
She was completely normal around ___ and new years.
Approximately, two weeks ago her daughter noticed that she was a
little bit less energetic than normal that she was talking less
on the phone and seemed fatigued. The patient began to complain
of headaches approximately five days ago. She did not qualify 
the
headache to her daughter but she did not take any medications
other than her daily aspirin to treat pain. Yesterday, the
patient spoke with her daughter and was excited about watching
the championship football game. Although she seemed a little 
less
talkative than normal and she complained of her headache she was
otherwise at baseline. When the patient's daughter called her
this evening, it quickly became obvious that there was something
wrong. The patient kept asking her daughter over and over again
what she planned to do today despite it being 730 at night. The
patient was unable to describe the football game and had many
other inappropriate phrases and responses to her daughters
questions (although she was able to form the words properly). 
Her
daughter became concerned and asked the patient's son to go by
the house to check. When he arrived, he had to climb in through
the back window and found her sitting on the couch snoozing. She
was confused and did many inappropriate things like try to talk
into the remote control as if it was phone. She also had a very
unsteady gait which is new for her. There was no evidence of 
fall
or any kind of trauma.  Although the patient has a history of 
two
falls, they are in the distant past and associated with either
getting her shoe caught or slipping on a wet floor. She has had
no illnesses or traumas recently. The patient's son took her to
___ where she was found to have an intraparenchymal
hemorrhage with intraventricular extension on non-con CT of the
head. She was transferred to ___ for acute management.

ROS is limited secondary to the patient's lethargy and AMS. But,
on neuro ROS, (+) ___ frontal headache, (+) new onset gait
difficulty. Denies any other pain, recent illness, SOB, 
numbness,
tingling, weakness. 
 
Past Medical History:
HTN
Breast Ca ___ yrs ago treated at ___ with a lumpectomy
then radiation for 6 months followed by Tamoxifen
 
Social History:
___
Family History:
Father had a MI at ___ then died at ___ from a second MI. Mother
lived till ___. Sister died from breast cancer at ___ other 3
siblings healthy). Has four children (3G1B) who are healthy
 
Physical Exam:
- Vitals: 97.8 81 127/75 16 96%
- General: Drowsy, falls back to sleep often but arouses easily.
Cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity
- Pulmonary: CTABL
- Cardiac: RRR, no murmurs
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.
 
NEURO EXAM: 
- Mental Status: Drowsy, but oriented to name, date, ___,
___ but not attentive. Will not perform the ___
backward. Able to relate pain about headache but thinks she is 
in
the hospital for HTN. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Able to register 3 objects and recall ___ at 5 
minutes.
No knowledge of current events (unable to mention any current
event). + evidence of apraxia (combed her hair with her fingers,
hit hammer in the air with random strikes). Would put the 
stamped
envelop in a mailbox. 
- Cranial Nerves:
PERRL 2.5 to 2mm and brisk. VFF to confrontation. EOMI without
nystagmus. Normal saccades. Facial sensation intact to light
touch. Slight left facial droop. Hearing intact to finger-rub
bilaterally. Palate elevates symmetrically. ___ strength in
trapezii and SCM bilaterally. Tongue protrudes in midline.
- Motor: Normal bulk and mildly increased tone throughout. Left
cupping, minimal drift. No adventitious movements such as tremor
or asterixis noted. 
  Delt Bic Tri WrE FE IO IP Quad Ham TA ___
L  4    ___   ___  5   4+   5  5       5     5   
R  5    ___   ___  5   5-   5  5       5     5   
- Sensory: No obvious deficits to light touch, vibratory sense,
proprioception throughout. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
Plantar response was mildly extensor on the left, flexor on the
right
- Coordination: No intention tremor or dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
- Gait: deferred

Discharge Exam: Mental status has improved and she is more awake 
but is very inattentive. She continues to have mild weakness on 
her left side in an upper motor neuron distribution (4+ to 5-). 
She is unsteady on her feet. Otherwise, her exam is unchanged 
from above.
 
Pertinent Results:
LABS:
___ 02:30AM BLOOD WBC-5.2 RBC-4.14* Hgb-15.1 Hct-40.7 
MCV-98 MCH-36.4* MCHC-37.1* RDW-13.2 Plt ___
___ 02:30AM BLOOD Neuts-61.9 ___ Monos-9.4 Eos-1.5 
Baso-0.2
___ 02:30AM BLOOD ___ PTT-29.1 ___
___ 02:30AM BLOOD Glucose-100 UreaN-20 Creat-0.9 Na-130* 
K-4.2 Cl-97 HCO3-19* AnGap-18
___ 07:12AM BLOOD Glucose-108* UreaN-18 Creat-1.2* Na-127* 
K-4.0 Cl-96 HCO3-22 AnGap-13
___ 07:15AM BLOOD ALT-16 AST-17 LD(LDH)-171 AlkPhos-67 
TotBili-1.2
___ 06:02AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.8 Cholest-172
___ 06:02AM BLOOD VitB12-265
___ 06:02AM BLOOD %HbA1c-5.1 eAG-100
___ 06:02AM BLOOD Triglyc-102 HDL-81 CHOL/HD-2.1 LDLcalc-71
___ 07:15AM BLOOD Osmolal-270*
___ 06:02AM BLOOD TSH-3.1
___ 05:19AM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:19AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-8* pH-6.5 Leuks-MOD
___ 05:19AM URINE RBC-3* WBC-37* Bacteri-FEW Yeast-NONE 
Epi-14
___ 05:19AM URINE CastHy-3*
___ 05:19AM URINE Eos-NEGATIVE  
___ 05:19AM URINE Hours-RANDOM Na-110 K-26 Cl-68
___ 05:19AM URINE Osmolal-684

___ 07:25PM BLOOD Na-127* K-3.9 Cl-94*
___ 07:12AM BLOOD Glucose-108* UreaN-18 Creat-1.2* Na-127* 
K-4.0 Cl-96 HCO3-22 AnGap-13
___ 04:37PM BLOOD Na-126* K-4.1 Cl-95*

IMAGING:

--CT Head w/ and w/o contrast, ___:
1. Proximal hemorrhage involving the right basal ganglia and 
surrounding white matter, stable compared to 7 hr earlier, with 
stable intraventricular extension. 
2. Decreased dilatation of the lateral and third ventricles 
compared to 7 hr earlier. 
3. No evidence for an arteriovenous abnormality in the area of 
the right 
parenchymal hemorrhage, which is most likely hypertensive. 
4. Small caliber of the vertebrobasilar system secondary to 
fetal-type right posterior cerebral artery and fetal left 
posterior cerebral artery. Mild narrowing of the distal basilar 
artery. 2 mm basilar tip aneurysm at the expected origin of the 
aplastic left P1 segment. This is highly unlikely to be related 
to the patient's right basal ganglia hemorrhage. 

--MR HEAD W & W/O CONTRAST, ___:
1. Intraparenchymal hemorrhage centered in the right basal 
ganglia with 
intraventricular extension, as seen on the prior exams. This is 
most likely due to a hypertensive hemorrhage. No enhancing 
lesions to suggest metastatic disease. 

--CHEST (PORTABLE AP), ___:
There is an asymmetric left lower lung opacity, which could be 
due to 
infection in the correct clinical setting. The right lung is 
clear. The 
cardiomediastinal and hilar contours are normal. No pneumothorax 
or large 
effusions. 

MICROBIOLOGY:

___ 11:29 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Mrs ___ is a ___ yo woman with PMH significant for HTN and 
breast Ca who presented with lethargy and malaise for 1.5-2 
weeks, followed by 5 days of progressive headache leading up to 
confusion and inappropriate behavior on the day of admission. 
She was initially taken to ___ where she was found to have 
an IPH with intraventricular extension on CT Head. She was 
transferred to ___ for acute management. 

#Right Basal Ganglia (caudate) Intraparenchymal Hemorrhage: MRI 
head showed known IPH centered in right basal ganglia with 
intraventricular extension, most likely hypertensive in nature 
although her blood pressure has been well controlled while 
inpatient; there was no evidence of metastatic disease, vascular 
abnormality, or amyloid angiopathy on MRI or CTA. She will 
probably need repeat MRI imaging in 2 months to further assess 
for underlying lesion once the hematoma has cleared. On exam, 
she was inattentive with some left sided weakness in an upper 
motor pattern. The patient was initially admitted to the 
neuro-ICU but was quickly transferred to the floor service for 
further management. Blood pressure has been well controlled on 
home meds (amlodipine and atenolol). Aspirin and NSAIDS should 
be held for 2 weeks post-bleed. She was treated with tylenol and 
fioricet prn in the acute setting while NSAIDS are 
contraindicated. 

#Hyponatremia/SIADH: She developed hyponatremia secondary to 
intracranial hemorrhage. Urine/serum labs were consistent with 
SIADH. Her sodium continued to trend downward despite fluid 
restriction so she was started on salt tabs. She should continue 
to have her electrolytes monitored at rehab.

#Acute Kidney Injury: Creatinine increased from 0.9 to 1.2 in 
the setting of fluid restriction for SIADH. Her fluid 
restriction was liberalized to 2000mL from 1500mL.

#Urinary Tract Infection: Found to have a UTI, culture grew 
Klebsiella pneumoniae, treated with 3 day course (6 doses) of 
Bactrim DS 1g BID, completed ___.

TRANSITIONAL ISSUES:
- hold aspirin x 2 weeks
- consider repeat MRI in 2 months to look for underlying lesion
- please trend sodium daily until it normalizes. She has been 
hyponatremic (to 126/127) and on a fluid restriction while here 
and was started on salt tabs.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Sodium Chloride 1 gm PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
1. Right basal ganglia intraparenchymal hemorrhage with 
intraventricular extension
2. Hyponatremia secondary to ___

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of headache and confusion 
resulting from an ACUTE HEMORRHAGIC STROKE, a condition in which 
there is bleeding in the brain. Damage to the brain can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having another 
brain bleed. In order to prevent future hemorrhagic strokes, we 
plan to modify those risk factors. Your risk factors are:
- high blood pressure
- history of cancer

Your MRI did not show any underlying brain mass. Your outpatient 
neurologist may decide to repeat this test in a few months. 

Your brain bleed has led to low sodium levels in the blood. 
Please continue to decrease that amount of liquid you drink per 
day to around 1.5 liters (about 6 cups a day). You should have 
your electrolytes checked at rehab and your fluid restriction 
can be adjusted once your sodium level improves. 

Please take your medications as prescribed.

Please followup with Neurology and your primary care physician.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake

It was a pleasure providing you with care during this 
hospitalization.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___